* Z:\home\aalmela\scm\git\utn\electronicaaplicada3\6_Amplificadores_potencia_RF\2_Ejercicios\spice\push_pull.asc
V1 N004 0 SINE(0 10 100e6 0 0 -90)
Lo 0 N005 {L}
Co 0 N005 {C}
C2 o N005 100n
V2 N008 0 100V
R1 o 0 {Rd}
G1 N001 0 N002 0 table(-10,0,0,0,10,10,20,10)
C3 VDD 0 1µ
R2 N008 VDD 0.1
L1 N003 0 160n
L3 0 N002 160n
L2 N007 0 160n
G2 N006 0 N007 0 table(-10,0,0,0,10,10,20,10)
L4 N001 VDD 160n
L5 VDD N006 160n
R3 N003 N004 50
L6 0 0 160n
.tran 0 900e-9 200e-9 1e-9
.param Rd = 25.61
.param L = 4.0752e-09
.param C = 6.2156e-10
.options numdgt = 7
.options plotwinsize = 0
.four 100e6 1 V(o)
K1 L1 L2 L3 1
K2 L4 L5 L6 1
.backanno
.end
