* Z:\home\aalmela\scm\git\utn\eaiii\eaiii_2021\3_Amplificadores_sintonizados\1_Lessons\spice\Doble_acopla_C.asc
L1 N001 0 15.9155e-6
L2 0 N002 15.9155e-6
R1 N001 0 1e3
R2 N002 0 1e3
C1 N001 0 1.59155e-9
C2 N002 0 1.59155e-9
I1 N001 0 AC 1e-6
C3 N002 N001 {k*{C}}
* Qc = 10
* fo = 1e6
.ac dec 1e5 0.3e6 100e6
.step param k LIST 0.2 0.1 0.01
* k = C3/(C1*C2)^0.5
.param C 1.59155e-9
.backanno
.end
