* Z:\home\aalmela\scm\git\utn\eaiii\eaiii_2021\3_Amplificadores_sintonizados\1_Lessons\spice\Doble_acopla_L.asc
L1 N001 0 15.9155e-6
L2 0 N002 15.9155e-6
R1 N001 0 1e3
R2 N002 0 1e3
C1 N001 0 1.59155e-9
C2 N002 0 1.59155e-9
I1 N001 0 AC 1e-6
k1 L1 L2 {k}
* Qc = 10
* fo = 1e6
.ac dec 1e5 0.3e6 100e6
.step param k LIST 1 0.9 0.8 0.2 .1 .01
.backanno
.end
