* Z:\home\aalmela\scm\git\utn\electronicaaplicada3\3_Amplificadores_sintonizados\2_Ejercicios\1_entrega\spice\if.asc
C2 g B1 {C2}
R2 g N001 10000
r3 B1 0 {1/g11}
c3 B1 0 {c11}
r4 C1 0 {1/g22}
c4 C1 0 {c22} Rser=0
B§y1 B1 0 I=V(C1)*{g12}+ddt(V(C1))*{c12}
B§y2 C1 0 I=V(B1)*{g21}+ddt(V(B1))*{c21}
R5 g 0 {rpL2}
L1 g 0 {L2}
C1 B1 0 {C3}
C7 C1 B2 {C2}
r1 B2 0 {1/g11}
c8 B2 0 {c11}
r7 C2 0 {1/g22}
c9 C2 0 {c22} Rser=0
B§y3 B2 0 I=V(C2)*{g12}+ddt(V(C2))*{c12}
B§y4 C2 0 I=V(B2)*{g21}+ddt(V(B2))*{c21}
R8 C1 0 {rpL2}
L3 C1 0 {L2}
C10 B2 0 {C3}
C11 C2 o {C4}
R9 C2 0 {rpL2}
L4 C2 0 {L2}
C12 o 0 {C5}
R6 o 0 500
V1 N001 0 AC 1e-6
.ac dec 10000 8e6 12e6
.param rpL2 = 2.1514e+04
.param L2 = 4.0000e-06
.param C2 = 8.0891e-11
.param C3 = 1.7491e-10
.param C4 = 7.1241e-11
.param C5 = 2.4736e-10
.param g11 = 1.0000e-03
.param c11 = 2.9749e-12
.param g12 = 0.0000e+00
.param c12 = 0.0000e+00
.param g21 = 4.0000e-02
.param c21 = -2.9749e-11
.param g22 = 1.0000e-04
.param c22 = 5.9497e-12
.backanno
.end
