* Z:\home\aalmela\scm\git\utn\eaiii\eaiii_2021\3_Amplificadores_sintonizados\2_Ejercicios\Guia\simples_sintonizados\eje1.asc
V1 N001 0 AC {vg}
r11 0 B {r11}
rg N001 B {rg}
R3 0 N002 {r22}
L1 N002 0 {L}
C1 N002 0 {C}
RL N002 0 {RL}
B§y1 N002 0 I=V(B)*{g21}+ddt(V(B))*{b21}
.ac dec 1000 50e6 150e6
.param vg  = 0.283
.param rg  = 1000.00
.param r11 = 800.00
.param g21 = 0.10
.param b21 = 0.00
.param r22 = 10000.00
.param C = 1.89e-11
.param L = 1.34e-07
.param RL = 10000.00
.backanno
.end
