* Z:\home\aalmela\scm\git\utn\eaiii\eaiii_2021\3_Amplificadores_sintonizados\2_Ejercicios\Guia\simples_sintonizados\eje2.asc
r1 0 i {r11}
rg1 i 0 {rg}
R2 0 N001 {r22}
L1 i 0 {L1}
C1 i 0 {C1}
RL1 N001 0 {RL}
B§y1 N001 0 I=V(i)*{g21}+ddt(V(i))*{b21}
I1 0 i AC {ig}
L2 N001 0 {L2}
C2 N001 0 {C2}
.ac dec 1000 5e6 15e6
.param ig  = 8.944e-05
.param rg  = 1000.00
.param C1 = 4.27e-10
.param L1 = 5.94e-07
.param r11 = 1000.00
.param g21 = 0.10
.param b21 = 0.00
.param r22 = 10000.00
.param C2 = 9.92e-11
.param L2 = 2.55e-06
.param RL = 10000.00
.backanno
.end
