* Z:\home\aalmela\scm\git\utn\eaiii\eaiii_2021\2_Circuitos_de_adaptacion\2_Ejercicios\Primeros\LTspice\Draft3.asc
J1 N001 N002 0 2N3819
V1 N002 0 0
V2 N001 0 15
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
.dc V1 0 -5 0.1
.backanno
.end
