* Z:\home\aalmela\scm\git\utn\eaiii\eaiii_2021\2_Circuitos_de_adaptacion\2_Ejercicios\Primeros\LTspice\Draft4.asc
J1 o 0 i 2N3819
V1 N001 0 AC 0
V2 N005 0 15
V3 0 N004 0
C1 N001 i 1nF
C2 N003 N002 1e-9
L1 i N004 100e-6
L2 N002 N005 100e-6
R2 N002 o 0.1
V4 N003 0 AC 1e-3
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
.ac dec 1e6 30e6 300e6
.backanno
.end
