* Z:\home\aalmela\scm\git\utn\eaiii\eaiii_2021\2_Circuitos_de_adaptacion\2_Ejercicios\Primeros\LTspice\Entrega_clase_1_b.asc
V1 N001 0 SINE(0 {vg} {fo} 0 0 0)
rg1 N001 c {rg}
Rant1 0 N003 {ra}
C1 N002 0 {C}
L1 N002 a {L}
T1 c 0 N002 0 Td=50n Z0=50
Cant a N003 {Ca}
.tran 0 310e-6 300e-6 1n
.param ra =  2.00
.param rg =  50.00
.param Ca  =  3.0000e-11
.param L  =  9.4336e-05
.param C  =  5.1980e-09
.param vg =  200.00
.param fo=  3.00e+06
.backanno
.end
