* Z:\home\aalmela\scm\git\utn\eaiii\eaiii_2021\2_Circuitos_de_adaptacion\2_Ejercicios\Primeros\LTspice\Draft2.asc
J1 N001 N002 0 2N3819
V1 N002 0 {VGG}
VDD N001 0 15
.model NJF NJF
.model PJF PJF
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.jft
.step param VGG list 0 -1 -2  -3
.dc VDD 0 20 1
.backanno
.end
