* Z:\home\aalmela\scm\git\utn\eaiii\2020\7_Mezcladores\ltspice\Draft5.asc
B1 N001 0 V = V(i)Laplace = s/ (s**2+s+1)
R1 i 0 330
R2 0 N001 330
V1 i 0 1
.ac dec 100 1e6 30e6
.backanno
.end
