* Z:\home\aalmela\scm\git\utn\eaiii\eaiii_2021\8_Osciladores\2_ejercicios\LTspice\oscilador_2ter_eje1.asc
V1 N001 0 PWL(0 0 1e-9 0 1.1e-9 0.4) AC 0.4
G1 d 0 d 0 table(-10,0,0,0,0.2,10e-3,0.6,1e-3,1,21e-3)
L1 d N001 {L} Rser=1e-20
C1 d 0 {C}
R1 d 0 {r}
C2 N001 0 100n
.tran 0 100e-9 0 0.1e-9
.param L = 1.588e-09
.param C = 1.595e-11
.param r = 6.000e+02
.backanno
.end
