* Z:\home\aalmela\scm\git\utn\eaiii\2020\8_Osciladores\LTspice\SA612\Draft3.asc
XU1 N002 N003 0 SFECF10M7GA00-R0
V1 N001 0 AC 10u
R1 N002 N001 330
R2 0 N003 330
.ac dec 1000 1e6 30e6
.lib Z:\home\aalmela\scm\git\utn\eaiii\2020\8_Osciladores\LTspice\SA612\cristal_10M7.net
.backanno
.end
