.SUBCKT SFECF10M7GA00-R0 1 2 3

R1 1 3 330
R2 4 2 330
A1 V(1, 3) V(4, 3) filter
.MODEL filter s_xfer(
    +num_coeff=[
        +1.44513262065130e+006
        +0.00000000000000e+000]
    +den_coeff=[
        +1.00000000000000e+000
        +1.44513262065130e+006
        +4.51988403152288e+015]
    +gain=1.3366878)
.ENDS
