* Z:\home\aalmela\scm\git\utn\electronicaaplicada3\8_Osciladores\2_ejercicios\ltspice\MRF9411_AC.asc
Q1 o i N005 0 MRF9411
L1 N001 i 1m
L2 N002 o 1m
Co N003 o 10n
Ci N004 i 10n
V2 N002 0 5
V3 N004 0 SINE(0 1u 10e6) AC 10u
R1 N005 0 25k
C3 N005 0 10n
R2 N002 N001 18k
V1 N003 0 SINE(0 1u 10e6) AC 0
.model NPN NPN
.model PNP PNP
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 1000 3e6 30e6
*Low Noise, High-Frequency Transistor
*MOT Si 250mW  10V  50mA 8GHz
.MODEL MRF9411 NPN
+ IS = 4.558E-16
+ BF = 136
+ NF = 0.9979
+ VAF = 21
+ IKF = 0.7
+ ISE = 3.087E-14
+ NE = 2
+ BR = 42
+ NR = 0.993
+ VAR = 2.9
+ IKR = 0.016
+ ISC = 3.411E-17
+ NC = 1.087
+ RB = 7
+ IRB = 8E-05
+ RBM = 8
+ RE = 0.45
+ RC = 8
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 8.6E-13
+ VJE = 0.94
+ MJE = 0.42
+ CJC = 4.3E-13
+ VJC = 0.35
+ MJC = 0.21
+ XCJC = 0.44
+ TF = 1.3E-11
+ XTF = 400
+ VTF = 6
+ ITF = 1.5
+ PTF = 47
+ TR = 1E-09
+ FC = 0.98
.backanno
.end
