* Z:\home\aalmela\scm\git\utn\eaiii\2020\8_Osciladores\ejercicios\ltspice\bases\Mezclador_entrada.asc
Q1 N003 1 N010 0 MRF9411
R1 8 4 1500
R2 8 5 1500
R3 1 E3 2500
R4 E3 2 2500
R5 N010 0 450
R6 7 0 25k
R7 N006 N011 210
V1 N011 0 1.32
R8 8 N006 13k
R9 8 6 18k
R10 N002 0 25k
R11 8 N001 18k
E1 E1 0 6 0 .4
E2 E2 0 N001 0 .4
Q2 4 E2 N003 0 MRF9411
Q3 4 E1 N004 0 MRF9411
Q4 8 6 7 0 MRF9411
Q5 5 E1 N003 0 MRF9411
Q6 5 E2 N004 0 MRF9411
Q7 N004 2 N010 0 MRF9411
Q8 8 N001 N002 0 MRF9411
E3 E3 0 N006 0 1
C1 1 0 2p
C2 2 0 2p
VS 8 0 5
V2 N012 0 SINE(0 1e-6 100e6) AC 10u
R12 N007 N012 50
C3 N008 N007 20p
L1 N008 0 8.85e-9
L2 N005 N008 42.36e-9
C4 N005 0 5p
C5 N005 N009 10n
C6 1 N005 10n
C7 2 0 10n
C8 N009 0 20p
.model NPN NPN
.model PNP PNP
.lib C:\users\aalmela\Mis Documentos\LTspiceXVII\lib\cmp\standard.bjt
* Bias
* Osc buffer/\nlevel shifter
*Low Noise, High-Frequency Transistor
*MOT Si 250mW  10V  50mA 8GHz
.MODEL MRF9411 NPN
+ IS = 4.558E-16
+ BF = 136
+ NF = 0.9979
+ VAF = 21
+ IKF = 0.7
+ ISE = 3.087E-14
+ NE = 2
+ BR = 42
+ NR = 0.993
+ VAR = 2.9
+ IKR = 0.016
+ ISC = 3.411E-17
+ NC = 1.087
+ RB = 7
+ IRB = 8E-05
+ RBM = 8
+ RE = 0.45
+ RC = 8
+ XTB = 0
+ EG = 1.11
+ XTI = 3
+ CJE = 8.6E-13
+ VJE = 0.94
+ MJE = 0.42
+ CJC = 4.3E-13
+ VJC = 0.35
+ MJC = 0.21
+ XCJC = 0.44
+ TF = 1.3E-11
+ XTF = 400
+ VTF = 6
+ ITF = 1.5
+ PTF = 47
+ TR = 1E-09
+ FC = 0.98
* >>>MEASURED PART DC PERFORMANCE<<<\nPIN     V(4v)     V(5V)     V(6v)     V(8v)\n1         1.35v    1.38v     1.39v     1.42v\n2         1.35v    1.38v     1.19v     1.42v\n3         GND     GND      GND      GND\n4         2.94v    3.90v     4.90v     6.83v \n5         2.96v    3.88v     4.88v     6.81v\n6         4.03v    4.95v     5.95v     7.97v\n7         3.25v    4.02v     5.02v     7.19v\n8          VDD     VDD      VDD       VDD\n \nIdd      2.0ma    2.2ma    2.3 ma    2.8ma
* By:\nJoe Rocci\nW3JDR\njoe@roccis.com\nUp to date model files and application\ncircuit files can be found at:\nhttp://w3jdr.ham-radio-op.net
* >>>NE602/SA612 OSCILLATOR/MIXER IC MODEL<<<
* Input matching network
* RF Signal
* Ltotal = 90nHy
K1 L1 L2 1
.ac dec 1000 30e6 300e6
* Yin = 559.8e-6 + j 2.22e-3
.backanno
.end
