* Z:\home\aalmela\scm\git\utn\eaiii\2020\10_Practicas_Laboratorio\FiltroSintonia\LTspice\filtro_Tee_tuning_2.asc
L1 N005 N009 {Lr}
L2 N009 N006 {Lr} Rpar={rpr}
L3 N009 N012 {Lc}
R1 N001 s 1k
C1 0 N001 10n
C2 0 N002 10n
R2 N002 s 1k
R3 N001 N004 10k
R4 N002 N007 10k
R5 N015 d 1k
C3 0 N015 10n
R6 N011 N015 10k
R7 N014 d 1k
C4 0 N014 10n
R8 N013 N014 10k
R9 N008 0 10k
R10 N003 0 10k
C5 N003 i 10n
C6 o N008 10n
R11 o 0 {rl}
R12 i N010 {rs}
V1 N010 0 AC 100u
V2 s 0 {Vs}
V3 d 0 {Vd}
XU1 N003 N004 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU2 N005 N004 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU3 N006 N007 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU4 N008 N007 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU5 N005 N011 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
XU6 0 N011 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
XU7 N006 N013 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
XU8 0 N013 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
R13 N009 N005 {rpr}
R14 N006 N009 {rpr}
R15 N012 0 {rpc}
XU9 N003 N004 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU10 N005 N004 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU11 N006 N007 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU12 N008 N007 SMVDIODE Cjo={Cjo1} M={M1} Vj={Vj1} R={Rs1} Ls={Ls1} Cp={Cp1}
XU13 N005 N011 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
XU14 0 N011 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
XU15 N006 N013 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
XU16 0 N013 SMVDIODE Cjo={Cjo2} M={M2} Vj={Vj2} R={Rs2} Ls={Ls2} Cp={Cp2}
.param rs =  50.0
.param rl =  50.0
.param Lc  =  112.54n
.param rpc =  0.2
.param Lr =  1387.99n
.param rpr =  24666.7
.ac dec 1000 10e6 40e6
;tran 0.1
.param Vs =  3.600
.param Vd =  2.426
* .param V1 =  2.588\n.param V2 =  3.851
* .param V1 =  3.370\n.param V2 =  5.128
.param Cjo1 =  5.2e-11
.param Vj1  =  7.4e+01
.param M1   =  4.9e+01
.param Cp1  =  2.7e-12
.param Rs1  =  1.1e+00
.param Ls1  =  1.4e-09
.param Cjo2 =  5.2e-11
.param Vj2  =  7.4e+01
.param M2   =  4.9e+01
.param Cp2  =  2.7e-12
.param Rs2  =  1.1e+00
.param Ls2  =  1.4e-09
.lib C:\Program Files\LTC\LTspiceXVII\lib\sym\MyComponents\smvdiode.cir
.backanno
.end
