* Z:\home\aalmela\scm\git\utn\electronicaaplicada3\11_Proyectos\BiCMOS_130nm\Draft1.asc
V1 N006 0 PULSE(0 -0.05 0 0.1 0.9 0 1 100) AC 10e-3
C1 N007 N006 4.7µ
C2 0 N007 4.7µ
C3 N007 N002 4.7µ
C4 N002 N005 2.2µ
R1 N005 0 100k
R2 N001 N005 100k
XU1 N005 N003 N001 0 N004 AD8541
R3 N003 N002 10k
R4 N004 N003 2e6
R5 N004 0 100k
V2 N001 0 5V
.tran 4
;ac dec 100 0.1 1000
.lib AD8541.lib
.backanno
.end
